US04546181
3-Amino-5-methyl-2-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-7(3H)-one
A mixture of 2.0 g of 3-amino-2-hydrazino-6-methyl-4(3H)-pyrimidinone, 10 ml of triethyl orthobenzoate and 20 ml of n-butanol was reacted as described in Example 1, giving 1.27 g of the desired intermediate, mp 195° C. (dec.).

reactant | 3-amino-2-hydrazino-6-methyl-4(3H)-pyrimidinone | 2.0 g | NN1C(=NC(=CC1=O)C)NN | C5H9N5O
reactant | triethyl orthobenzoate | 10 ml | CCOC(C1=CC=CC=C1)(OCC)OCC | C13H20O3
solvent | n-butanol | 20 ml | C(CCC)O | C4H10O
product | 3-Amino-5-methyl-2-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-7(3H)-one | 1.27 g | NN1C(=NN2C1=NC(=CC2=O)C)C2=CC=CC=C2 | C12H11N5O
